US06569849B1
A mixture of magnesium turnings (1.07 g, 0.044 mol) activated with iodine, 1,2-dibromoethane and tetrahydrofuran (40 ml) was kept under a nitrogen atmosphere, and a solution of 4-bromophenylmethyl tetrahydro-2-pyranyl ether (11.20 g, 0.041 mol) in tetrahydrofuran (40 ml) was added dropwise under stirring. The mixture was gently heated to reflux temperature, and heating was continued for 3 h. The mixture was cooled to room temperature, and a solution of 10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-one (6.86 g, 0.033 mol) in tetrahydrofuran (40 ml) was added dropwise. The mixture was heated at reflux temperature for 1 h, cooled and then poured into an ice-cold saturated solution of ammonium chloride (85 ml). The mixture was extracted with ether (120 ml and 2×70 ml), and the combined organic layers were washed with water (2×40 ml), brine (40 ml) and dried (MgSO4). The solvent was removed in vacuo and the oily residue (14.7 g) was purified by column chromatography on silica gel (200 g) using first benzene and then a mixture of dichloromethane and ethanol (9:1) as eluents. The dichloromethane/ethanol fraction afforded 5.5 g (41%) of 5-(4-(2-tetrahydropyranyloxymethyl)phenyl)-10,11-dihydro-5H-dibenzo[a,d]-cyclohepten-5-ol.

reactant | magnesium | 0.044 mol, 1.07 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | 1,2-dibromoethane | BrCCBr | C2H4Br2
reactant | 4-bromophenylmethyl tetrahydro-2-pyranyl ether | 0.041 mol, 11.20 g | O1C(CCCC1)OCC1=CC=C(C=C1)Br | C12H15BrO2
reactant | 10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-one | 0.033 mol, 6.86 g | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)=O | C15H12O
reactant | ammonium chloride | 85 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 5-(4-(2-tetrahydropyranyloxymethyl)phenyl)-10,11-dihydro-5H-dibenzo[a,d]-cyclohepten-5-ol | 5.5 g, 41% | O1C(CCCC1)OCC1=CC=C(C=C1)C1(C2=C(CCC3=C1C=CC=C3)C=CC=C2)O | C27H28O3
